US05872137
Then, 40 g of 4-bromo-6-chloro-2-methyl-1-benzyloxybenzene was dissolved in 400 ml of tetrahydrofuran, followed by stirring at -70° C., to which 76 ml of n-butyl lithium solution (in hexane, 1.69 mol/liter) was added dropwise, followed by further stirring at -70° C. for 2 hours. To this reaction mixture was added dropwise a solution of 13.3 g of trimethoxyborane dissolved in 50 ml of tetrahydrofuran. Then, the reaction mixture was stirred for 1 hours, while warming to room temperature, and 100 ml of 10% aqueous hydrochloric acid solution was added in small portions, followed by stirring for 20 minutes. The tetrahydrofuran layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated. The residue was mixed with 200 ml of toluene, and heated at 70° C. under stirring, to which 36 ml of 30% aqueous hydrogen peroxide solution was added dropwise. After heating under reflux for 1 hour, the reaction mixture was washed once with water, twice with 10% aqueous ammonium ferrous sulfate solution, and once with water, followed by phase separation. The toluene layer was dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 29 g of 4-benzyloxy-3-chloro-5-methylphenol (91% yield).

reactant | 4-bromo-6-chloro-2-methyl-1-benzyloxybenzene | 40 g | BrC1=CC(=C(C(=C1)Cl)OCC1=CC=CC=C1)C | C14H12BrClO
reactant | n-butyl lithium | 1.69 mol/liter, 76 ml | C(CCC)[Li]
reactant | trimethoxyborane | 13.3 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-3-chloro-5-methylphenol | 29 g, 91% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)O)Cl | C14H13ClO2
